US07531532B2
3-[6-(4-Amino-2-fluorophenoxy)pyrimidin-4-yl]-1-methyl-1-(1-methylpiperidin-4-yl)urea
[6-(2-Fluoro-4-nitrophenoxy)pyrimidin-4-yl]carbamic acid phenyl ester (200 mg) was dissolved in tetrahydrofuran (16 ml), and then 1-methyl-4-(methylamino)piperidine (0.236 ml) was added thereto while stirring, followed by stirring for 20 min. The reaction mixture was partitioned between ethyl acetate (30 ml) and a saturated aqueous solution of sodium hydrogencarbonate (20 ml). The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate (20 ml), water (20 ml) and brine (20 ml) in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a crude product (218 mg) of 3-[6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-yl]-1-methyl-1-(1-methylpiperidin-4-yl)urea. The crude product (218 mg) was dissolved in methanol (5 ml)-tetrahydrofuran (5 ml), and then 10% palladium carbon (115 mg) was added thereto under a nitrogen atmosphere, followed by replacing with hydrogen inside the system and stirring for 3 hrs. The reaction mixture was filtered to remove the catalyst, which was washed with ethanol. The filtrate was concentrated under a reduced pressure to give a residue, which was then suspended in diethyl ether (2 ml)-hexane (4 ml). The solid was filtered off and dried under aeration to provide the titled compound (91.0 mg, 45%) as yellow powder.

reactant | [6-(2-Fluoro-4-nitrophenoxy)pyrimidin-4-yl]carbamic acid phenyl ester | 200 mg | C1(=CC=CC=C1)OC(NC1=NC=NC(=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])F)=O | C17H11FN4O5
reactant | 1-methyl-4-(methylamino)piperidine | 0.236 ml | CN1CCC(CC1)NC | C7H16N2
reactant | hydrogen | [H][H] | H2
reactant | hexane | 4 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 2 ml | C(C)OCC | C4H10O
catalyst | palladium carbon | 115 mg | [C].[Pd]
product | 3-[6-(4-Amino-2-fluorophenoxy)pyrimidin-4-yl]-1-methyl-1-(1-methylpiperidin-4-yl)urea | 91.0 mg, 45% | NC1=CC(=C(OC2=CC(=NC=N2)NC(N(C2CCN(CC2)C)C)=O)C=C1)F | C18H23FN6O2
